US09023846B2
STEP A: 3-tert-Butylisoxazole-5-carboxylic acid methyl ester
Pivaldehyde (1.10 mL, 10.0 mmol) was dissolved in dry DMF (10 mL), and NH2OH.H2O (0.590 mL of 55 wt % aqueous solution, 10.5 mmol) was added via syringe. The resulting mixture was stirred at room temperature for 4 h, NCS (1.40 g, 10.5 mmol) was added in small portions, and the resulting mixture was stirred at room temperature for 1 h. CuSO4.5H2O (75.0 mg, 0.300 mmol), methyl propiolate (1.07 mL, 12.0 mmol), and H2O (5 mL) were added followed by Cu powder (25.0 mg, 0.393 mmol). The resulting mixture was stirred at room temperature for 16 h and quenched with dilute aqueous NH4OH (2 mL). The aqueous solution was extracted with hexanes (3×30 mL), and then the combined organic extracts were dried over MgSO4 and filtered. The solvent was removed under reduced pressure to yield the title compound as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ: 6.88 (s, 1H), 3.96 (s, 3H), 1.36 (s, 9H).

reactant | Pivaldehyde | 10.0 mmol, 1.10 mL | CC(C)(C)C=O | C5H10O
reactant | NH2OH.H2O | 10.5 mmol, 0.590 mL | NO.O
reactant | NCS | 10.5 mmol, 1.40 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | methyl propiolate | 12.0 mmol, 1.07 mL | C(C#C)(=O)OC | C4H4O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 5 mL | O | H2O
product | 3-tert-Butylisoxazole-5-carboxylic acid methyl ester | COC(=O)C1=CC(=NO1)C(C)(C)C | C9H13NO3
